US05241064
To a suspension of ethyl 2-[(1R)-1-hydroxyethyl]acetylate (11.22 g) and imidazole (6.89 g) in N,N-dimethylformamide (110 ml) was added portionwise t-butyldimethylsilyl chloride (14.08 g) at 0° C. After the mixture was stirred for 10 hours, the reaction mixture was poured into a mixture of water and ethyl acetate. The water layer was separated and extracted twice with ethyl acetate. The combined organic layers were washed with water, 1N hydrochloric acid, saturated aqueous sodium hydrogencarbonate, water and an aqueous sodium chloride, and then, dried over magnesium sulfate. The resultant solution was evaporated, and the residue was distilled to give ethyl 2-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-acrylate (19.53 g).

reactant | imidazole | 6.89 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 14.08 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-acrylate | 19.53 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)C(C(=O)OCC)=C | C13H26O3Si
